US07384939B2
A mixture of 5-cyano-4-(2-methylphenyl)-2-(4-morpholinyl)pyridine (17.71 g), 18 mL of toluene, and 17.0 mL (33.1 g, 319 mmol) of concentrated sulfuric acid was heated at 70° C. for 12 hours, cooled to room temperature, and quenched by addition of 100 mL of cold H2O. Ethyl acetate (100 mL) was added followed by a solution of 25.5 g (638 mmol) of sodium hydroxide in 50 mL of H2O. The aqueous layer was separated and extracted three times with 50 mL of ethyl acetate. The organic layers were combined and concentrated to afford 19.14 g of 4-(2-methylphenyl)-6-(4-morpholinyl)-3-pyridinecarboxamide as a colorless solid (LC assay 87.7 wt %) (yield 94.9–97%).

reactant | 5-cyano-4-(2-methylphenyl)-2-(4-morpholinyl)pyridine | 17.71 g | C(#N)C=1C(=CC(=NC1)N1CCOCC1)C1=C(C=CC=C1)C | C17H17N3O
reactant | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 319 mmol, 17.0 mL, 33.1 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 638 mmol, 25.5 g | [OH-].[Na+]
solvent | H2O | 50 mL | O | H2O
product | 4-(2-methylphenyl)-6-(4-morpholinyl)-3-pyridinecarboxamide | 19.14 g, yield 94.9–97% | CC1=C(C=CC=C1)C1=C(C=NC(=C1)N1CCOCC1)C(=O)N | C17H19N3O2
